US09126931B2
2-(4-Chloro-3-methoxy-phenyl)-2-methyl-propionitrile
1-Chloro-4-fluoro-2-methoxy-benzene (4.3 g, 26.78 mmol) and isobutyronitrile (9.61 mL, 4.0 eq.) were dissolved in toluene (9.0 mL), added with KHMDS (80 mL, 0.5 M toluene solution) and stirred at 65° C. for 2 hr. The reaction solution was cooled to room temperature, added with aqueous solution of 1 N hydrochloric acid and then extracted with MTBE. The organic layer was washed with saturated brine and dried over magnesium sulfate. The drying agent was removed by filtration and the residues obtained after concentration under reduced pressure were purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.72 g, 31%).

reactant | 1-Chloro-4-fluoro-2-methoxy-benzene | 26.78 mmol, 4.3 g | ClC1=C(C=C(C=C1)F)OC | C7H6ClFO
reactant | isobutyronitrile | 9.61 mL, 4.0 eq. | C(C(C)C)#N | C4H7N
reactant | KHMDS | 0.5 M, 80 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | toluene | 9.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Chloro-3-methoxy-phenyl)-2-methyl-propionitrile | 1.72 g, 31% | ClC1=C(C=C(C=C1)C(C#N)(C)C)OC | C11H12ClNO
